US06953790B2
Step B. (5S)-N2,N2-bis(tert-Butoxycarbonyl)-5-(2,3-difluorophenyl)-6-(hydroxymethyl)-D-lysine
A solution of benzyl (2R,5S)-2-[bis(tert-butoxycarbonyl)amino]-5-(2,3-difluorophenyl)-7-hydroxy-6-nitroheptanoate (180 mg, 0.49 mmol) and 10% Pd/C (300 mg) in EtOH (5 mL, SureSeal from Aldrich), was hydrogenated at 55 psi for 7 d (200 mg more Pd/C was added after 3 d). The reaction was filtered through Celite with more EtOH and concentrated to afford the title compound (180 mg). MS 489.1 (M+1).

reactant | benzyl (2R,5S)-2-[bis(tert-butoxycarbonyl)amino]-5-(2,3-difluorophenyl)-7-hydroxy-6-nitroheptanoate | 0.49 mmol, 180 mg | C(C)(C)(C)OC(=O)N([C@@H](C(=O)OCC1=CC=CC=C1)CC[C@H](C(CO)[N+](=O)[O-])C1=C(C(=CC=C1)F)F)C(=O)OC(C)(C)C | C30H38F2N2O9
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (5S)-N2,N2-bis(tert-Butoxycarbonyl)-5-(2,3-difluorophenyl)-6-(hydroxymethyl)-D-lysine | 180 mg | C(C)(C)(C)OC(=O)N([C@H](CC[C@H](C(N)CO)C1=C(C(=CC=C1)F)F)C(=O)O)C(=O)OC(C)(C)C | C23H34F2N2O7
